US04065290
3-(4-chlorophenyl)-1-methyl-5-(3-trifluoromethylphenyl)-4-piperidinone
A 15 g. portion of 1-(4-chlorophenyl)-3-(3-trifluoromethylphenyl)-2-propanone was reacted with ethyl formate and methylamine hydrochloride to prepare 10 g. of 3-(4-chlorophenyl)-1-methyl-5-(3-trifluoromethylphenyl)-4(1H)-pyridinone. The intermediate pyridinone was reduced with lithium aluminum hydride. Column chromatographic separation of the reaction mixture on a silica gel column as described in the examples above produced about 0.5 g. of the compound of Example 18, m.p. 122.5°, about 1.1 g. of the compound of Example 19, m.p. 113.5°, and about 1.3 g. of the compound of Example 20, m.p. 115.5°.

reactant | 1-(4-chlorophenyl)-3-(3-trifluoromethylphenyl)-2-propanone | ClC1=CC=C(C=C1)CC(CC1=CC(=CC=C1)C(F)(F)F)=O | C16H12ClF3O
reactant | ethyl formate | C(=O)OCC | C3H6O2
reactant | methylamine hydrochloride | Cl.CN
reactant | 3-(4-chlorophenyl)-1-methyl-5-(3-trifluoromethylphenyl)-4(1H)-pyridinone | ClC1=CC=C(C=C1)C1=CN(C=C(C1=O)C1=CC(=CC=C1)C(F)(F)F)C | C19H13ClF3NO
reactant | pyridinone | N1C(C=CC=C1)=O | C5H5NO
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 3-(4-chlorophenyl)-1-methyl-5-(3-trifluoromethylphenyl)-4-piperidinone | ClC1=CC=C(C=C1)C1CN(CC(C1=O)C1=CC(=CC=C1)C(F)(F)F)C | C19H17ClF3NO
